US05561101
5-Chloro-5-(4,6-dimethoxy-2-pyrimidinyl)furo[3,4-b]pyridine-7(5H)-one (Table B, cpd. no. 68)
A mixture of 490 mg of 5-(4,6-dimethoxy-2-pyrimidinyl)furo[3,4,b]pyridine-7(5H)one and 50 ml of methanol is heated at 55° for 1/2 hour or until a homogeneous solution is formed. 2.6 g of NaOCl (common house bleach) is added dropwise. The mixture is taken up in dichloromethane an the organic phase separated and evaporated to dryness to yield the title compound, mp 146°-148° C.

reactant | 5-(4,6-dimethoxy-2-pyrimidinyl)furo[3,4,b]pyridine-7(5H)one | 490 mg | COC1=NC(=NC(=C1)OC)C1OC(C2=NC=CC=C21)=O | C13H11N3O4
reactant | methanol | 50 ml | CO | CH4O
reactant | NaOCl | 2.6 g | [O-]Cl.[Na+]
solvent | dichloromethane | ClCCl | CH2Cl2
product | 5-Chloro-5-(4,6-dimethoxy-2-pyrimidinyl)furo[3,4-b]pyridine-7(5H)-one | ClC1(OC(C2=NC=CC=C21)=O)C2=NC(=CC(=N2)OC)OC | C13H10ClN3O4
